US05194460
Preparation of Propargyl Cyanoacetate
1.6 parts of propargyl alcohol and 1 part of cyanoacetic acid were dissolved in 4.7 parts of chloroform. 0.2 parts of a 98 percent by weight solution of aqueous sulfuric acid were added as a catalyst and the resultant mixture was heated for 5.5 hours at a temperature of 61° C. The crude ester was washed with water. Volatile materials were removed using reduced pressure. The ester, represented the formula N≡CCH2C(O)OCH2C≡CH, was isolated in 71 percent yield.

reactant | propargyl alcohol | C(C#C)O | C3H4O
reactant | cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Propargyl Cyanoacetate | 71 percent yield | C(#N)CC(=O)OCC#C | C6H5NO2
